US06936716B1
N-methyl-benzene 1,2-diamine (1.22 g, 10 mmol) and 40 ml of dichloromethane were charged in a 250 ml round bottle, 3 ml of triethylamine was then added, and the mixture was cooled to 0° C. 2,4-Difluoro-benzoyl chloride (1.77 g, 10 mmol) was dissolved in 40 ml of dichloromethane and then slowly added to the 250 ml round bottle. The reaction was conducted under a nitrogen atmosphere for 6 hours. After the reaction was complete, ether was added to form precipitation. The solid product was collected by filtration, washed with ether several times, and heated under reduced pressure to form 2-(2,4-difluoro-phenyl)-1-methyl-1H-benzoimidazole (yield=1.97 g, 81%).

reactant | N-methyl-benzene 1,2-diamine | 10 mmol, 1.22 g | CNC=1C(=CC=CC1)N | C7H10N2
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-Difluoro-benzoyl chloride | 10 mmol, 1.77 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-(2,4-difluoro-phenyl)-1-methyl-1H-benzoimidazole | yield=1.97 g, 81% | FC1=C(C=CC(=C1)F)C1=NC2=C(N1C)C=CC=C2 | C14H10F2N2
